US07858640B2
[3-(4-chlorobenzyl)-4,7-dimethylquinolin-5-yloxy]acetic Acid
A mixture of [3-(4-chlorobenzyl)-4,7-dimethylquinolin-5-yloxy]acetic acid methyl ester (1.8 g), tetrahydrofuran and potassium trimethylsilanolate (0.19 g) was heated at 100° C. in a microwave reactor for 5 minutes. The mixture was concentrated under reduced pressure, diluted with water and acidified by the addition of concentrated hydrochloric acid. The resulting precipitate was collected by filtration and purified by preparative reverse-phase HPLC, using a gradient over 30 minutes of acetonitrile in water (35% to 95% organic modifier) to afford title compound, 0.015 g.

reactant | [3-(4-chlorobenzyl)-4,7-dimethylquinolin-5-yloxy]acetic acid methyl ester | 1.8 g | COC(COC1=C2C(=C(C=NC2=CC(=C1)C)CC1=CC=C(C=C1)Cl)C)=O | C21H20ClNO3
reactant | potassium trimethylsilanolate | 0.19 g | C[Si]([O-])(C)C.[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [3-(4-chlorobenzyl)-4,7-dimethylquinolin-5-yloxy]acetic Acid | ClC1=CC=C(CC=2C=NC3=CC(=CC(=C3C2C)OCC(=O)O)C)C=C1 | C20H18ClNO3
